US03959309
A solution of 7 g. of dimethylaminocyclohexanone and 8.4 g. of 3-methyoxyphenylhydrazine hydrochloride in 40 ml. of absolute ethyl alcohol and 12 ml. of 4-N hydrogen chloride in ethyl alcohol was heated under reflux for 2 hours. The reaction mixture was allowed to stand for sixteen hours, filtered, and the filtrate was evaporated to dryness under reduced pressure. The residue was taken up in water, made alkaline with dilute sodium hydroxide and extracted with ether. The ether extract was washed with water, dried, ethereal hydrogen chloride was added, and the resulting oily precipitate was collected by decantation, recrystallized twice from isopropyl alcohol, suspended in chloroform and treated with dilute sodium hydroxide. The chloroform extract was evaporated to dryness under reduced pressure to give 3-(dimethylamino)-7-methoxy-1,2,3,4-tetrahydrocarbazole, m.p. 100°-105°C.

reactant | dimethylaminocyclohexanone | CN(C)C1C(CCCC1)=O | C8H15NO
reactant | 3-methyoxyphenylhydrazine hydrochloride | Cl.COC=1C=C(C=CC1)NN
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(dimethylamino)-7-methoxy-1,2,3,4-tetrahydrocarbazole | CN(C1CCC=2NC3=CC(=CC=C3C2C1)OC)C | C15H20N2O
